US09062015B2
FS1031 Acetic acid 4-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepan-1-yl}butylester
The preparation is carried out analogously to FS401 starting from 68 mg (0.19 mmol) of 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepane and 34 μl of bromobutyl acetate using 2 equiv. of potassium carbonate.

reactant | 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepane | 0.19 mmol, 68 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCNCCC1)C | C24H33N3
reactant | bromobutyl acetate | 34 μl, 2 equiv. | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Acetic acid 4-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]-1,4-diazepan-1-yl}butylester | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CCC1)CCCCOC(C)=O)C | C30H43N3O2
